US05098929
2,2-Dimethyl-5-ethyl-5-(1-hydroxypropyl)-1,3-dioxane (10 g.) and Dowex 50×8-200 ion exchange resin (H+ form) (1.0 g.) in methanol (200ml) containing water (40 ml) was refluxed with stirring for three hours. The mixture was filtered and the filtrate was evaporated in vacuo. 2-Ethyl-2-hydroxymethyl-pentan-1,3-diol (6.0 g.) was obtained as a colourless viscous oil.

reactant | 2,2-Dimethyl-5-ethyl-5-(1-hydroxypropyl)-1,3-dioxane | 10 g | CC1(OCC(CO1)(C(CC)O)CC)C | C11H22O3
reactant | water | 40 ml | O | H2O
solvent | methanol | 200ml | CO | CH4O
product | 2-Ethyl-2-hydroxymethyl-pentan-1,3-diol | 6.0 g | C(C)C(CO)(C(CC)O)CO | C8H18O3
